US07148226B2
Preparation of compound {4-[3-cyclopentyl-4-(2,2-dimethyl-4-oxo-4H-1,3-dioxin-6-yl)but-1-ynyl]-2-ethylphenoxy}acetonitrile
To a solution (4-bromo-2-ethylphenoxy)acetonitrile (1.99 g, 8.33 mmol) in diisopropylamine (9 mL) and DMF (3 mL) was added 6-(2-cyclopentyl-2-hydroxybut-3-ynyl)-2,2-dimethyl-4H-1,3-dioxin-4-one (2.00 g, 7.57 mmol), PdCl2(PPh3)2 (211 mg, 4 mol %), CuI (115 mg, 8 mol %). The mixture was heated to 90° C. for 30 min before it was cooled down to room temperature. The reaction was diluted with aqueous NH4Cl, extracted with EtOAc (3×50 mL). The combined organic extracts were washed with brine, dried with Na2SO4 and evaporated to dryness. The mixture was purified by flash column chromatography (10–50% EtOAc in hexanes) to give the product (1.9 g). 1H NMR (300 MHz, CDCl3) δ: 1.23 (t, J=12.07 Hz, 3H) 1.35–1.80 (m, 14H), 2.30 (m, 1H), 3.50 (m, 5 H), 4.62 (s, 2 H), 4.87 (s, 1 H), 6.90 (d, J=2.54 Hz, 1 H), 7.14 (m, 1 H), 7.38 (m, 1 H).

reactant | (4-bromo-2-ethylphenoxy)acetonitrile | 8.33 mmol, 1.99 g | BrC1=CC(=C(OCC#N)C=C1)CC | C10H10BrNO
reactant | 6-(2-cyclopentyl-2-hydroxybut-3-ynyl)-2,2-dimethyl-4H-1,3-dioxin-4-one | 7.57 mmol, 2.00 g | C1(CCCC1)C(CC1=CC(OC(O1)(C)C)=O)(C#C)O | C15H20O4
solvent | diisopropylamine | 9 mL | C(C)(C)NC(C)C | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | NH4Cl | [NH4+].[Cl-]
catalyst | PdCl2(PPh3)2 | 211 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 115 mg | [Cu]I
product | {4-[3-cyclopentyl-4-(2,2-dimethyl-4-oxo-4H-1,3-dioxin-6-yl)but-1-ynyl]-2-ethylphenoxy}acetonitrile | 1.9 g | C1(CCCC1)C(C#CC1=CC(=C(OCC#N)C=C1)CC)CC1=CC(OC(O1)(C)C)=O | C25H29NO4
